US04242503
3-O-Demethylfortimicin A
Fortimicin A sulfate (1.48 g, 2.46 mmole) was dissolved in 160 ml of 48% hydriodic acid at room temperature. The solution was stirred and the temperature gradually raised to 62° C. Stirring was continued at 62° C. for 20 hours. The solution was diluted with 160 ml of water and passed through a 1.5 l. column of "Amberlite" lRC-50 in the ammonium form. The column was washed with water and eluted with an ammonium hydroxide gradient as described in Example 1 resulting in the recovery of 3-O-demethylfortimicin A in 25% yield.

reactant | Fortimicin A sulfate | 2.46 mmole, 1.48 g | CC([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H]([C@@H]([C@@H]([C@H]([C@H]2O)N(C)C(=O)CN)OC)O)N)N)N.OS(=O)(=O)O.OS(=O)(=O)O
reactant | ammonium | [NH4+]
solvent | hydriodic acid | 160 ml | I | HI
solvent | water | 160 ml | O | H2O
product | 3-O-Demethylfortimicin A | 25% yield | CC(C1CCC(C(O1)OC2C(C(C(C(C2O)N(C)C(=O)CN)O)O)N)N)N | C16H33N5O6
